US07220727B2
N-[4-(Benzyloxycarbonylamino)phenylethanoyloxy]succinimide (33)
To an ice-cold solution of 4-aminophenylacetic acid (500 mg, 3.307 mmol) in 1:1 dioxane-water (10 mL) was added a solution of 2 N NaOH (˜2.2 equivalent, pH 9–10). This mixture was treated with benzylchloroformate (0.5 mL, 3.681 mmol) and the solution was allowed to stir in an ice-bath for 2 h. The reaction mixture was acidified with an aqueous solution of 1 N HCl (pH ˜4), extracted with ethyl acetate, dried (Na2SO4), and concentrated in vacuo to give a solid as crude product. Purification of the solid (SiO2, 10:1 CHCl3/MeOH) gave N-Cbz protected phenylacetic acid (856 mg, 91%) as a pure white solid. To make the succinimide active ester, a mixture of N-Cbz protected acid (120 mg, 0.421 mmol), N-hydroxysuccinimide (53 mg 97%, 0.445 mmol), and dicyclohexylcarbodiimide (88 mg, 0.421 mmol) in dry THF (4 mL) was stirred at room temperature under an atmosphere of argon for 2 h. This solution was directly used for preparation of compound 35.

reactant | 4-aminophenylacetic acid | 3.307 mmol, 500 mg | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | NaOH | 2 N, ˜2.2 equivalent, pH 9–10 | [OH-].[Na+]
reactant | benzylchloroformate | 3.681 mmol, 0.5 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | HCl | 1 N, pH ˜4 | Cl | ClH
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
reactant | N-hydroxysuccinimide | 0.445 mmol, 53 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 0.421 mmol, 88 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | dioxane water | 10 mL | O1CCOCC1.O
product | N-[4-(Benzyloxycarbonylamino)phenylethanoyloxy]succinimide | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)CC(=O)ON1C(CCC1=O)=O | C20H18N2O6
